US07598257B2
Step 5. 3-[5-(7H-Pyrrolo[2,3-d]pyrimidin-4-yl)-1,3-thiazol-2-yl]pentanedinitrile
A solution of 3-[5-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,3-thiazol-2-yl]pentanedinitrile (14 mg, 0.033 mmol) in DCM (3 mL) containing TFA (0.6 mL) was stirred for 4 hours. The mixture was then concentrated and the residue was redissolved in methanol (2 mL) to which ethylenediamine (0.4 mL) was then added. After 1 hour reaction time, the product was purified by preparative-HPLC/MS (C18 eluting with a gradient of ACN/H2O containing 0.15% NH4OH) to afford the desired product (6 mg, 62%).

reactant | 3-[5-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,3-thiazol-2-yl]pentanedinitrile | 0.033 mmol, 14 mg | C[Si](CCOCN1C=CC2=C1N=CN=C2C2=CN=C(S2)C(CC#N)CC#N)(C)C | C20H24N6OSSi
reactant | TFA | 0.6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-[5-(7H-Pyrrolo[2,3-d]pyrimidin-4-yl)-1,3-thiazol-2-yl]pentanedinitrile | 6 mg, 62% | N1=CN=C(C2=C1NC=C2)C2=CN=C(S2)C(CC#N)CC#N | C14H10N6S
